### ISSUE TITLE
`rfl` versus `by rfl`

### ISSUE THREAD

**Issue by xhalo32** [plclub/sf-in-lean#180]
We seem to favor `by rfl`, but starting with Basics, we already see the plain `Eq.rfl` term used
```
theorem even_zero : even zero = true := rfl
theorem even_one : even (succ zero) = false := rfl
theorem even_succ_succ n : even (succ (succ n)) = even n := rfl
```

We should decide on a convention, document it, and fix it across the chapters.

As a technical note, `by rfl` can also solve `↔` goals, which `Eq.rfl` can't (the right term would be `Iff.rfl`). Maybe this is worth pointing wherever we start to use `Eq.rfl` (at least Lists.lean makes heavy use of `rfl` as a term).

**Comment by berberman** [comment]
I would prefer `by rfl`: 1. IIRC we didn't talk about terms v.s. tactics, so I guess we are assuming that proofs should be done through tactics. 2. `rfl` tactic is more powerful than `rfl` term as you pointed out, and it seems that we are already taking advantages of this, e.g.
https://github.com/plclub/sf-in-lean/blob/13e958991286af5a8ff1be723c86d51aba8c729d/TS/Smallstep.lean#L915-L925

**Comment by xhalo32** [comment]
In `IndProp.lean` we currently have `apply CollatzHoldsFor.chf_even;  rfl` but we could use `apply CollatzHoldsFor.chf_even rfl` if `rfl`-as-a-term is taught. Note that this requires that `n` is implicit in `chf_even` and `chf_odd`.

**Comment by rogerburtonpatel** [comment]
I would say always use `by rfl`. `rfl` being both a term and an overloaded name for two things of two types (the type of `rfl` and its inhabitant) is too confusing for this introductory textbook.

**Comment by satiscugcat** [comment]
Out of curiosity, how similar is it to `sorry` in this regard?

**Comment by xhalo32** [comment]
In Hoare.lean we use something like `exact ⟨hpre, rfl⟩` quite a bit and to me it feels wrong to write `exact ⟨hpre, by rfl⟩`. What do you think? Does it make sense to use `rfl` to prove a conjunction, or should we perhaps use `constructor`?

**Comment by satiscugcat** [comment]
I personally prefer `exact ⟨hpre, by rfl⟩` because it is a an example of the general case, where you can use tactics to construct a sub-expression in a term. If for example the need to write something like `exact f (by simp)` comes up later, it is less surprising. 

As to using constructor as an explicit step, I'm not sure. I think it is good to introduce the ability to introduce tactics in sub-expressions at some point, because it is a very nice and convenient feature of LEAN that makes proofs look cleaner (imo).

**Comment by ionathanch** [comment]
I'm trying to replace instances of `rfl` with `by rfl`, which commonly appears when rewriting by a hypothesis that takes an equality. This example from `Tactics.lean` doesn't work:

```lean
def length_append_cons {α} {l₁ l₂ : List α} {x : α} {n : Nat}
  (h : (l₁ ++ x :: l₂).length = n) : (l₁ ++ l₂).length + 1 = n := ...
```

```lean
theorem length_append_self {α : Type} {n : Nat} {l : List α}
    (h : l.length = n) :
    (l ++ l).length = n + n := by
  induction l generalizing n with
  | nil =>
    rw [List.append_nil,  List.length_nil] at *
    rw [← h]
  | cons x xs ih =>
    rw [List.cons_append, List.length_cons] at *
    rw [← length_append_cons rfl] -- changing this to (by rfl) errors
    rw [ih (by rfl), ← h]
    rw [Nat.add_add_add_comm]
```

The error says `Invalid rewrite argument: The pattern to be substituted is a metavariable...`, so I think `by rfl` doesn't force enough arguments. How do we want to handle this? The `rw [h rfl]` pattern seems to be pretty common, and I think artificially fixing this example to not use `rfl` as a term would be pretty verbose.
